US08431695B2
Step 2: Preparation of (5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine
To a dry flask was added tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]pyrrolidine-1-carboxylate (420 mg, 0.824 mmol) followed by a solution of 1:1 trifluoroacetic acid in dichloromethane (3 mL). The mixture was stirred under N2 atmosphere for 1.5 h. The reaction was then partitioned between dichloromethane (150 mL) and 10% aqueous potassium carbonate. The aqueous layer was back extracted with dichloromethane (2×25 mL). The combined organic layer was washed with brine (50 mL) then dried with sodium sulfate. The solvent was evaporated under reduced pressure to yield 320 mg (95%) of the desired product as a tan solid. 1H NMR (300 MHz, DMSO-d6) δ 8.53 (s, 1 H), 7.89 (s, 1 H), 7.78 (d, 1 H), 7.58 (s, 1 H), 7.50-7.30 (m, 4H), 7.14 (d, 1 H), 6.58 (s, 1 H), 5.64 (s, 2 H), 3.98 (m, 1 H), 3.35-3.25 (m, 3 H), 2.10 (m, 1 H), 1.92 (m, 1 H); ES-MS m/z 410.4 [M+H]+, HPLC RT (min) 2.00.

reactant | tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]pyrrolidine-1-carboxylate | 0.824 mmol, 420 mg | NC1=NC=NN2C1=C(C=C2C2CN(CC2)C(=O)OC(C)(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C29H31N7O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 320 mg, 95% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
